US07384930B2
tert-Butyl 4-(3-(2-ethoxy-2-oxoethyl)-3-phenylureido)piperidine-1-carboxylate.
4-Amino-1-N-Boc-piperidine (760 mg, 3.79 mmol) was dissolved in a mixture of dichloromethane (40 mL) and aqueous sodium bicarbonate (30 mL). A solution of 20% phosgene in toluene (10 mL, 18.9 mmol) was added to the mixture with vigorous stirring. Reaction stirred vigorously at room temperature for 40 minutes. Reaction layers were partitioned. Organic layer was dried (magnesium sulfate), filtered and concentrated in vacuo. Residue was dissolved in toluene (30 mL). N-Phenylglycine ethyl ester was added to the mixture. Reaction was heated at reflux for 15 hours. Mixture was cooled to room temperature and diluted with ethyl acetate (50 mL). Mixture was washed successively with 1N hydrochloric acid (3×50 mL) and brine (30 mL). Organic layer was dried (magnesium sulfate), filtered and concentrated in vacuo. Silica gel chromatography afforded the title compound as pale yellow solid in 63% yield. 1H NMR (300 MHz, CDCl3): δ=7.47-7.26 (m, 5H), 4.30 (s, 1H), 4.16 (q, J=7.32, 2H), 3.88 (d, J=12.81, 2H), 3.81-3.69 (m, 1H), 2.89-2.70 (m, 2H), 1.83 (dd, J1=12.62, J2=3.11, 2H), 1.38 (s, 9H), 1.23 (t, J=7.14, 3H), 1.19-1.03 (m, 2H).

reactant | 4-Amino-1-N-Boc-piperidine | 3.79 mmol, 760 mg | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 18.9 mmol, 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | sodium bicarbonate | 30 mL | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 4-(3-(2-ethoxy-2-oxoethyl)-3-phenylureido)piperidine-1-carboxylate | 63% yield | C(C)OC(CN(C(NC1CCN(CC1)C(=O)OC(C)(C)C)=O)C1=CC=CC=C1)=O | C21H31N3O5
